US04208409
The crude O,O-diethyl N-(chlorothio)-n-propylphosphoramidothioate (prepared in Preparation I) is cooled in an ice-bath and 2.79 gm. (0.013 mole) of 4-(dimethylamino)-3,5-xylyl methylcarbamate dissolved in 20 ml dimethylformamide (with 2 ml triethylamine added) are mixed as a batch. This reaction mixture is stirred at 25° C. for four hours, and then diluted with hexane. The organic solution is washed with water, dried over anhydrous sodium sulfate, and the organic solvents are removed by evaporation under reduced pressure. The residue thus obtained is transferred to a column of "Florisil". The chromatogram is developed first with a solvent mixture consisting of 10 percent diethyl ether in petroleum ether, and finally with 30 percent diethyl ether in petroleum ether. After collecting the later eluate and removing the solvents by evaporation under reduced pressure, there is obtained the desired 4-(dimethylamino)-3,5-xylyl [[(diethoxyphosphinothioyl)-n-propylamino]thio]methylcarbamate as a yellow oil.

reactant | O,O-diethyl N-(chlorothio)-n-propylphosphoramidothioate | ClSN(P(OCC)(OCC)=S)CCC | C7H17ClNO2PS2
reactant | 4-(dimethylamino)-3,5-xylyl methylcarbamate | 0.013 mole | CNC(OC1=CC(=C(C(=C1)C)N(C)C)C)=O | C12H18N2O2
reactant | Florisil | [O-][Si](=O)[O-].[Mg+2]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | 4-(dimethylamino)-3,5-xylyl [[(diethoxyphosphinothioyl)-n-propylamino]thio]methylcarbamate | C(C)OP(=S)(OCC)N(SCNC(OC1=CC(=C(C(=C1)C)N(C)C)C)=O)CCC | C19H34N3O4PS2
